Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Augmentin / azithromycin / ketoconazole / paclitaxel / 
oxycodone / Dilaudid / Macrobid
 
Attending: ___.
 
Chief Complaint:
Pelvic pain and dysuria
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ w/ developmental delay, undifferentiated connective tissue, 
and metastatic ovarian cancer (local recurrence s/p extensive 
resection and chemo; currently on treatment holiday) who 
presents
with dysuria and pelvic pain. 

On ___ she had onset of sharp ___ pain in the left lower 
back and suprapubic area. She then developed some burning with 
urination. She was directed to ___, where a urine 
culture was collected (final result: no growth) and was 
prescribed Cipro, which she did not take due a history of GI 
intolerance of this medication. Her symptoms have persisted and 
progressively worsened, so she re-presented to ___ ___ for
evaluation. 

In the ___, vitals were stable: temp 97.1, HR 89, BP 152/98, RR 
18, 100% RA. Labs were unremarkable, including WBC of 4.6 and a 
negative HCG. UA had positive nitrites, but no evidence of 
inflammation. Pelvic exam was performed, which records CMT 
(although notably her cervix is surgically absent). A repeat 
urine culture was collected. She was given her home meds, 
pyridium, Toradol, morphine, IVF, CTX 1g, and Bactrim DS. 

Admitted to medicine for further workup of her bladder and 
pelvic pain.

REVIEW OF SYSTEMS
GEN: No fevers/chills.
CARDIAC: denies chest pain or palpitations
PULM: denies new dyspnea or cough
GI: no n/v, no diarrhea, hard stool but no constipation
GU: as per HPI
Full 14-system review of systems otherwise negative and 
non-contributory. 

 
Past Medical History:
Past Medical History:
___ presented at ___ with acute RLQ 
abdominal pain. CT notable for 6.3 cm right ovarian cyst.
- ___ right ovarian laparoscopic cystectomy, 6-7 cm cyst
removed with intra-operative rupture, by report there was no
ovarian surface involvement by tumor. ___ path review: high
grade serous carcinoma.
- ___ CA 125 (Quest) 93
- ___ to OR (___) laparoscopy converted to laparotomy 
with TAH/BSO, pelvic tumor resection, total pelvic 
lymphadenectomy,
para-aortic LN resection, infracolic omemtectomy, peritoneal 
biopsies: ovarian serous carcinoma, no positive LNs, right 
pelvic
sidewall positive for carcinoma, grade 3, with positive 
washings,
thus staged as IIc.
- ___ C1D1 ___ taxol complicated by taxol reaction
- ___ ___ x 6 cycles
- ___ ___ negative
- ___ rising CA125
- ___ CT scan shows disease recurrence- seen by Dr. ___ 
___ possible surgical resection
- ___ C1D1 Carboplatin
- ___: C2D1 Carboplatin
- ___: C3D1 Carboplatin
- ___: C4D1 Carboplatin

PAST MEDICAL HISTORY: 
- Developmental delay with learning disability attributed to
childhood viral encephalitis
- Depression
- Headaches
- Raynaud's disease
- Undifferentiated connective tissue disorder
- IBS

 
Social History:
___
Family History:
FH:
No cancer in first degree relatives. 

 (per OMR):
- paternal grand-aunt with breast ca in her ___
- maternal great-uncle with colon ca
- paternal great grandmother with ovarian ca
 
Physical Exam:
ADMISSION EXAM:
VITALS: last 24-hour vitals were reviewed.
GEN: NAD
HEENT: EOMI, sclerae anicteric, MMM, OP clear 
LYMPH: No LAD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB
GI: soft, NT, ND, NABS
GI: TTP over bladder. No CVA tenderness
MSK: No visible joint effusions or deformities. TTP over L5,
sacrum and SI joints.
DERM: No visible rash. No jaundice.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
EXTREMITIES: WWP, no edema

DISHARGE EXAM
-Vitals: reviewed in OMR
-General: Lying in bed in no apparent distress, appears 
comfortable 
-HEENT: Anicteric, eyes conjugate, MMM, no JVD
-Cardiovascular: RRR no MRG, nl. S1 and S2
-Chest: reproducible right chest pain 
-Pulmonary: Lung fields clear to auscultation throughout
-Gastroinestinal: Soft, lower abdominal tenderness with 
palpation, non-distended, bowel sounds present
-GU: no CVA tenderness 
-MSK: No edema
-Skin: No rashes or ulcerations evident
-Neurological: no focal neurological deficits, developmental 
delay 
-Psychiatric: pleasant, appropriate affect
 
Pertinent Results:
WBC-4.6 RBC-4.15 HGB-11.0* HCT-37.0 MCV-89 RDW-21.5* PLT 
COUNT-128*

GLUCOSE-89 UREA N-14 CREAT-0.8 SODIUM-140 POTASSIUM-4.7 
CHLORIDE-105 TOTAL CO2-25 

HCG-NEGATIVE

URINALYSIS  COLOR-Yellow APPEAR-Clear SP ___ BLOOD-NEG 
NITRITE-POS PROTEIN-NEG GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG 
UROBILNGN-0.2 PH-6.0 LEUK-TR ___ BACTERIA-OCC 
YEAST-NONE EPI-0

CT ABDOMEN/PELVIS WITH IV CONTRAST ___
1. No acute findings within the abdomen or pelvis to explain 
abdominal pain. 
2. Stable small right lower quadrant lymph nodes and left pelvic 
sidewall possible lymphocele. 

___ 10:27AM URINE CT-NEG NG-NEG TRICH-NEG

Urine culture  (Final ___:    < 10,000 CFU/mL. 

___ Troponin <0.___ woman with past medical history including metastatic 
ovarian cancer status post extensive resection and chemotherapy 
with local recurrence, currently on treatment holiday, who 
presents with dysuria and pelvic pain.

1. Dysuria and pelvic pain h/o ovarian cancer
-Patient has had pelvic pain before both related to and not 
related to malignancy.  Imaging and labs including urine culture 
do not explain pain.  At this point suspect constipation as 
source of pain.  Patient also regularly goes to ___ with similar 
complaints and given her malignancy history suspect she could 
also have a component of anxiety worsening her pain.  Appreciate 
GYN-ONC recommendations who noted normal pelvic exam, 
recommended flexural, and recommended outpatient integrative 
care follow up.  Also appreciate patient's outpatient oncology 
team who saw patient who notes low clinical suspicion of 
malignancy in lieu of unremarkable imaging and normal CA-125 2 
weeks ago.  Oncology also noted that she frequently is evaluated 
in the ___ for pain.  At this point oncology recommend outpatient 
follow up with them and are okay with bridging discharge home 
with morphine.  

2. Hypotension h/o HTN
-?symptomatic hypotension as patient didn't report symptoms 
until she was told her BP was low.  She does not have any other 
signs/symptoms of infection.  She was given gentle IV fluids and 
losartan was held with resolution of her symptoms.  She should 
follow up with PCP with blood pressure monitoring to determine 
when to resume losartan. 

3. Constipation h/o IBS
-This is likely causing/contributing to abdominal pain, which 
will only be worsened with morphine.  She was given aggressive 
PO bowel regimen without bowel movement followed by enema today. 
 She notes clear liquid bowel movement, which is suspect is the 
enema.  Stressed the important of good bowel regimen, which she 
expressed understanding to.  She refused senna due to cramping.  
 

Chronic Medical Problems
1. Depression, anxiety, adjustment disorder: continue 
duloxetine, aripiprazole, amitriptyline, gabapentin, lorazepam
2. Developmental delay, cognitive impairment: attributed to 
childhood viral encephalitis.  supportive care
3. Hypothyroidism: continue Levothyroxine
4. Difficult crossmatch (Anti-C antibody and Anti-E antibody)
5. Percutaneous pinning left femoral neck stress facture, s/p 
6. GERD: continue omeprazole 
7. Raynaud's disease, Undifferentiated connective tissue 
disorder

>30 minutes spent on discharge planning 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. DULoxetine 120 mg PO DAILY 
2. ARIPiprazole 2 mg PO QHS 
3. Amitriptyline 20 mg PO QHS 
4. LORazepam 0.5 mg PO QHS:PRN anxiety 
5. Gabapentin 600 mg PO QHS 
6. Losartan Potassium 50 mg PO DAILY 
7. Levothyroxine Sodium 50 mcg PO 6X/WEEK (___) 
8. Levothyroxine Sodium 100 mcg PO 1X/WEEK (___) 
9. Omeprazole 40 mg PO DAILY:PRN dyspepsia 
10. Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild 
11. Docusate Sodium 100 mg PO DAILY 
12. Docusate Sodium 200 mg PO QHS 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
RX *bisacodyl 5 mg 1 tablet(s) by mouth QHS PRN Disp #*30 Tablet 
Refills:*0 
2.  Cyclobenzaprine 5 mg PO TID:PRN lower abdominal/pelvic pain 
RX *cyclobenzaprine 5 mg 1 tablet(s) by mouth TID PRN Disp #*15 
Tablet Refills:*0 
3.  Morphine Sulfate ___ 15 mg PO Q6H:PRN BREAKTHROUGH PAIN 
Please use only as needed as this causes constipation.  
RX *morphine [Arymo ER] 15 mg 1 tablet(s) by mouth Q6 hours PRN 
Disp #*20 Tablet Refills:*0 
4.  Senna 17.2 mg PO BID constipation 
RX *sennosides [senna] 8.6 mg 2 tab by mouth at bedtime Disp 
#*60 Tablet Refills:*0 
5.  Docusate Sodium 200 mg PO BID  
6.  Polyethylene Glycol 17 g PO DAILY constipation  
7.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
8.  Amitriptyline 20 mg PO QHS  
9.  ARIPiprazole 2 mg PO QHS  
10.  DULoxetine 120 mg PO DAILY  
11.  Gabapentin 600 mg PO QHS  
12.  Levothyroxine Sodium 50 mcg PO 6X/WEEK (___)  

13.  Levothyroxine Sodium 100 mcg PO 1X/WEEK (___)  
14.  LORazepam 0.5 mg PO QHS:PRN anxiety  
15.  Omeprazole 40 mg PO DAILY:PRN dyspepsia  
16. HELD- Losartan Potassium 50 mg PO DAILY  This medication was 
held. Do not restart Losartan Potassium until you follow up with 
your PCP and your blood pressure improves

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Lower abdominal, and pelvic pain
#History of ovarian cancer status post surgery and chemotherapy 
currently on a treatment holiday

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,
You were admitted with lower abdominal pain, as well as pelvic 
pain. The cause of the symptoms was not entirely clear, however 
based on our testing we do not feel that you had a urinary tract 
infection or recurrence of your ovarian cancer. You were also 
seen by the Gynecology consult team, which recommended 
increasing your laxatives, starting medication known as 
cyclobenzaprine (also known as Flexeril), and following up as 
noted below.
 
Followup Instructions:
___